US08026246B2
To a stirred suspension of 4-{[9-chloro-7-(2-fluoro-6-methoxyphenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-yl]amino}-2-methoxybenzoic acid (98.0 g, 190 mmol) in ethanol (2.0 L) was added 1.044 M Sodium hydroxide in water (199 mL). The resultant homogeneous solution was stirred for 1 hour, during which time a thick precipitate formed. The product was collected by filtration, and washed with ethanol (0.5 L) and diethyl ether (1.0 L). The resultant solid was dried in vacuo at 60-70° C. for 4 days to provide 88.6 g (86.8%) of sodium 4-([9-chloro-7-(2-fluoro-6-methoxyphenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-yl]amino)-2-methoxybenzoate as a light tan solid, mp 225° C. (decomp). 1H NMR (DMSO-d6) δ 9.86 (s, 1H), 8.60 (s, 1H), 8.29 (d, 1H), 7.79 (dd, 1H), 7.60 (br s, 1H), 7.40 (dd, 1H), 7.29 (d, 1H), 7.25-7.15 (m, 2H), 6.9 (br s, 2H), 4.9 (br s, 1H), 3.8 (br s, 1H), 3.70 (s, 3H), 3.35 (br s, 3H); MS m/z 519 (M+−Na+H, 100%); CHN Anal. Calcd. for C27H19ClFN4NaO40.33 EtOH−1.3H2O: C, 57.33; H, 4.10; N, 9.67. Found: C, 57.14; H, 3.99; N, 9.65.

reactant | 4-{[9-chloro-7-(2-fluoro-6-methoxyphenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-yl]amino}-2-methoxybenzoic acid | 190 mmol, 98.0 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2OC)F)C=NC(=N3)NC3=CC(=C(C(=O)O)C=C3)OC)C=C1 | C27H20ClFN4O4
reactant | Sodium hydroxide | 1.044 M | [OH-].[Na+]
solvent | ethanol | 2.0 L | C(C)O | C2H6O
solvent | water | 199 mL | O | H2O
product | sodium 4-([9-chloro-7-(2-fluoro-6-methoxyphenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-yl]amino)-2-methoxybenzoate | 88.6 g, 86.8% | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2OC)F)C=NC(=N3)NC3=CC(=C(C(=O)[O-])C=C3)OC)C=C1.[Na+] | InChI=1S/C27H20ClFN4O4.Na/c1-36-21-5-3-4-20(29)23(21)25-19-10-15(28)6-8-17(19)24-14(12-30-25)13-31-27(33-24)32-16-7-9-18(26(34)35)22(11-16)37-2;/h3-11,13H,12H2,1-2H3,(H,34,35)(H,31,32,33);/q;+1/p-1
